US09399646B2
A mixture of 3-iodopyridine (602 mg, 2.94 mmol), 4-bromophenol (560 mg, 3.24 mmol), CuBr (23 mg, 0.16 mmol), 1-(pyridin-2-yl)propan-2-one (53 mg, 0.39 mmol), Cs2CO3 (1.92 g, 5.89 mmol), and DMSO (6 mL) was degassed with three vacuum/N2 cycles, heated at 100° C. for 9 h, and then stirred at rt overnight. The reaction was filtered through Celite with EtOAc. The filtrate was washed with H2O (100 mL) and brine (100 mL). The aqueous wash was back extracted with EtOAc (3×40 mL). The organic extracts were combined, dried (MgSO4), filtered, concentrated, and purified by silica gel chromatography (0%-20% EtOAc in hexanes) to give 250 mg of 3-(4-bromophenoxy)pyridine as a clear liquid. 1H NMR (400 MHz, DMSO-d6): δ 8.39-8.42 (m, 2H), 7.58-7.61 (m, 2H), 7.43-7.51 (m, 2H), 7.02-7.07 (m, 2H).

reactant | 3-iodopyridine | 2.94 mmol, 602 mg | IC=1C=NC=CC1 | C5H4IN
reactant | 4-bromophenol | 3.24 mmol, 560 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1-(pyridin-2-yl)propan-2-one | 0.39 mmol, 53 mg | N1=C(C=CC=C1)CC(C)=O | C8H9NO
reactant | Cs2CO3 | 5.89 mmol, 1.92 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 3-(4-bromophenoxy)pyridine | 250 mg | BrC1=CC=C(OC=2C=NC=CC2)C=C1 | C11H8BrNO
